US05495020
Employing ethyl 2-(2-methyl-3,4,5,6-tetrafluorobenzoyl)-3-ethoxyacrylate (5.0 g) and 2-aminothiophene (2.22 g), the procedure of Reference Example 21 is repeated to give ethyl 2-(2-methyl-3,4,5,6-tetrafluorobenzoyl)-3-(2-thienyl)aminoacrylate, which is then treated with 60% sodium hydride as in Reference Example 22 to give ethyl 1-(2-thienyl)-5-methyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (1.05 g), as white powder (recrystallized from ethyl acetate--n-hexane), m.p. 198°-200° C.

reactant | ethyl 2-(2-methyl-3,4,5,6-tetrafluorobenzoyl)-3-ethoxyacrylate | 5.0 g | CC1=C(C(=O)C(C(=O)OCC)=COCC)C(=C(C(=C1F)F)F)F | C15H14F4O4
reactant | 2-aminothiophene | 2.22 g | NC=1SC=CC1 | C4H5NS
product | ethyl 2-(2-methyl-3,4,5,6-tetrafluorobenzoyl)-3-(2-thienyl)aminoacrylate | CC1=C(C(=O)C(C(=O)OCC)=CNC=2SC=CC2)C(=C(C(=C1F)F)F)F | C17H13F4NO3S
